US05919793
Bis(triphenylphosphine)-palladium(II) chloride (175 mg) and copper(I) iodide (85 mg) were added to a solution of 2-bromobenzaldehyde (2.03 g) and 3-ethynyl-3-trimethylsilyloxyquinuclidine (2.23 g) in dimethyl formamide (25 ml) and triethylamine (5 ml) at ambient temperature under an atmosphere of argon. The reaction mixture was stirred at ambient temperature for 21 hours. The reaction mixture was poured into water (150 ml) and extracted with ethyl acetate (2×100 ml). The ethyl acetate extracts were combined, filtered, washed with water (2×100 ml), brine (100 ml), dried (MgSO4) and evaporated. The residue was purified by column chromatography on alumina (Alumina N 32-63) using a 40:60 (v/v) mixture of ethyl acetate and isohexane as eluent to give 3-[2-{2-formylphenyl}ethynyl]-3-trimethylsilyloxyquinuclidine as an oil (2.1 g), NMR: 0.00 (9H, s), 1.1-1.3 (1H, m), 1.35-1.54 (1H, m), 1.82-1.90 (1H, m), 2.5 (4H, t), 2.73 (1H, d), 3.07 (1H,d), 7.38-7.48 (2H, m), 7.5-7.6 (1H, m), 7.68-7.75 (1H, m), 10.2 (1H, s), m/z 328 (M+H).

reactant | 2-bromobenzaldehyde | 2.03 g | BrC1=C(C=O)C=CC=C1 | C7H5BrO
reactant | 3-ethynyl-3-trimethylsilyloxyquinuclidine | 2.23 g | C(#C)C1(CN2CCC1CC2)O[Si](C)(C)C | C12H21NOSi
reactant | water | 150 ml | O | H2O
solvent | dimethyl formamide | 25 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 5 ml | C(C)N(CC)CC | C6H15N
catalyst | Bis(triphenylphosphine)-palladium(II) chloride | 175 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 85 mg | [Cu]I
product | 3-[2-{2-formylphenyl}ethynyl]-3-trimethylsilyloxyquinuclidine | 2.1 g | C(=O)C1=C(C=CC=C1)C#CC1(CN2CCC1CC2)O[Si](C)(C)C | C19H25NO2Si
